US07544812B2
Compound 2-{4-[3-(2,5-dioxo-imidazolidin-4-yl)-propyl]-phenoxy}-2-methyl-propionic acid tert-butyl ester (0.29 g, 0.770 mmol) in DMF (10 mL) was treated with 3,4-dimethyl benzyl chloride (0.131 g, 0.847 mmol), MgSO4 (0.185 g, 1.54 mmol) and then 325 mesh K2CO3 (0.213 g, 1.54 mmol). The resultant mixture was heated to 50° C. under N2 for 4 h. The reaction mixture was cooled and quenched with 1N HCl (8 mL) and then extracted with EtOAc and water. The organic layer was dried (MgSO4) and the solvent was removed in vacuo to give a crude product which was purified by flash chromatography using a gradient of 4:1 then 1:1 hexanes:EtOAc to afford 0.202 g (53%) 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester. MS (ES+) Calc'd for C29H39N2O5 (M+1) 495. Found m/z 495 (100%). 1H NMR.

reactant | 2-{4-[3-(2,5-dioxo-imidazolidin-4-yl)-propyl]-phenoxy}-2-methyl-propionic acid tert-butyl ester | 0.770 mmol, 0.29 g | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1NC(NC1=O)=O)=O | C20H28N2O5
reactant | 3,4-dimethyl benzyl chloride | 0.847 mmol, 0.131 g | CC=1C=C(CCl)C=CC1C | C9H11Cl
reactant | MgSO4 | 1.54 mmol, 0.185 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | K2CO3 | 1.54 mmol, 0.213 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester | 0.202 g, 53% | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1NC(N(C1=O)CC1=CC(=C(C=C1)C)C)=O)=O | C29H38N2O5
